US05688792
Step 6: (S)-N-[[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
The crude [[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]azide (889 mg, 2.635 mmol) was dissolved in dry THF (15 mL) and treated with triphenylphosphine (864 mg, 3.294 mmol). After an hour, the reaction was found to be complete by TLC (10% MeOH/CHCl3, UV short wave). Next, water (0.949 mL, 52.7 mmol) was added and the reaction was heated to 50° C. for two hours. At this point, the reaction was incomplete; so more water (0.475 mL, 26.35 mmol) was added and the reaction was heated to 60° C. for 5 hours. The reaction was then allowed to cool to ambient temperature, stirring overnight (11 hours) under N2. In the morning, the reaction was found to be complete by TLC (10% MeOH/CHCl3, UV short wave). The reaction was concentrated and then dried under high vacuum for two hours. Next, the semi-solid was dissolved in CH2Cl2 (15 mL) and treated with pyridine (0.320 mL, 3,953 mmol). The reaction was allowed to stir for 15 minutes and then the acetic arthydride (0.497 mL, 5.270 mmol) was added dropwise. After an hour, the reaction was complete by TLC (10% MeOH/CHCl3, UV short wave). The reaction mixture was diluted with CH2Cl2 (50 mL) and then washed with 1 N HCl (50 mL), saturated NaHCO3 (50 mL), and brine (50 mL). Each aqueous portion was back-extracted with more CH2Cl2 (2×20 mL each). The organic portions were combined, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to yield a white solid. This crude material was chromatographed on silica gel (100 g, packed with 10% CH3CN/CHCl3), eluting with 1-2% MeOH in 10% CH3CN/CHCl3 to give 667 mg (72%) of the title compound as a white solid with a melting point of 185.5°-186.5° C. and a HRMS (M+) calculated for C16H20N3O3FS 353.1209, found 353.1200.

reactant | [[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]azide | 2.635 mmol, 889 mg | FC=1C=C(C=CC1N1CCSCC1)N1C(OC(C1)CN=[N+]=[N-])=O | C14H16FN5O2S
reactant | triphenylphosphine | 3.294 mmol, 864 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 52.7 mmol, 0.949 mL | O | H2O
reactant | water | 26.35 mmol, 0.475 mL | O | H2O
reactant | pyridine | 3,953 mmol, 0.320 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | (S)-N-[[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 667 mg, 72% | FC=1C=C(C=CC1N1CCSCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C16H20FN3O3S
